US07727988B2
5-(6-Fluoro-pyridin-2-yl)-2,4-dimethoxy-pyrimidine (Prep74)
2,4-Dimethoxy-pyrimidine-5-boronic acid (966 mg, 5.3 mmol) was dissolved in degassed n-PrOH (60 ml) and then 2-bromo-6-fluoropyridine (850 mg, 4.8 mmol), Na2CO3 (1.676 g, 15.8 mmol), PPh3 (400 mg, 1.52 mmol) and Pd(OAc)2 (116 mg) were added. The suspension was stirred at reflux for 3 hours. The solvent was evaporated under vacuum and the crude was partitioned between water and ethyl acetate. The organic phase was dried (Na2SO4) and evaporated. The crude was triturated with iPrOH to give 650 mg of the title compound as a white powder (52% yield).

reactant | 2,4-Dimethoxy-pyrimidine-5-boronic acid | 5.3 mmol, 966 mg | COC1=NC=C(C(=N1)OC)B(O)O | C6H9BN2O4
reactant | 2-bromo-6-fluoropyridine | 4.8 mmol, 850 mg | BrC1=NC(=CC=C1)F | C5H3BrFN
reactant | Na2CO3 | 15.8 mmol, 1.676 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | PPh3 | 1.52 mmol, 400 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | n-PrOH | 60 ml | C(CC)O | C3H8O
catalyst | Pd(OAc)2 | 116 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 5-(6-Fluoro-pyridin-2-yl)-2,4-dimethoxy-pyrimidine | 650 mg, 52% yield | FC1=CC=CC(=N1)C=1C(=NC(=NC1)OC)OC | C11H10FN3O2
